US04503049
A solution of 3 g of [4-(4-chlorophenyl)-1-(4-fluorophenyl)-3-pyrazolylmethyl]malonic acid in 50 ml of chlorobenzene is heated under reflux until the release of gas ceases (about 2.5 hours). The mixture is concentrated under vacuum, the residue is recrystallized from carbon tetrachloride, thus obtaining 2.2 g of 3-[4-(4-chlorophenyl)-1-(4-fluorophenyl)-3-pyrazolyl]propionic acid, mp 131° C.

reactant | [4-(4-chlorophenyl)-1-(4-fluorophenyl)-3-pyrazolylmethyl]malonic acid | 3 g | ClC1=CC=C(C=C1)C=1C(=NN(C1)C1=CC=C(C=C1)F)CC(C(=O)O)C(=O)O | C19H14ClFN2O4
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-[4-(4-chlorophenyl)-1-(4-fluorophenyl)-3-pyrazolyl]propionic acid | 2.2 g | ClC1=CC=C(C=C1)C=1C(=NN(C1)C1=CC=C(C=C1)F)CCC(=O)O | C18H14ClFN2O2
